US07989460B2
A mixture of 7-(2-chloroethoxy)-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline (0.15 g), tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyrrole hydrochloride (0.10 g), potassium carbonate (0.09 g) and potassium iodide (0.1 g) in DMA (1.5 ml) was stirred and heated at 80° C. for 12 hours. The mixture was diluted in DMF (0.8 ml), filtrated and purified by preparative LCMS (Hypersil C18-13-Basic column using a solvent gradient consisting of acetonitrile and water buffered with a 5% ammonium carbonate solution (100 g/L, pH 8.9). The solvent was removed by evaporation under vacuum and the residue was triturated under diethyl ether, filtered and dried to give 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(tetrahydro-5H-[1,3]dioxolo[4,5-c]pyrrol-5-yl)ethoxy]quinazoline (0.10 g) as a pale yellow solid.

reactant | 7-(2-chloroethoxy)-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline | 0.15 g | ClCCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C20H18ClN3O3
reactant | tetrahydro-3aH-[1,3]dioxolo[4,5-c]pyrrole hydrochloride | 0.10 g | Cl.O1COC2C1CNC2
reactant | potassium carbonate | 0.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(tetrahydro-5H-[1,3]dioxolo[4,5-c]pyrrol-5-yl)ethoxy]quinazoline | 0.10 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CC2C(C1)OCO2)OC=2C=C1C=C(NC1=CC2)C | C25H26N4O5
